US07547710B2
2-{[3-(aminomethyl)-4-(2-fluorophenyl)-2-isobutylquinolin-6-yl]oxy}acetamide Dihydrochloride
To a mixture of 2-{[3-cyano-4-(2-fluorophenyl)-2-isobutylquinolin-6-yl]oxy}acetamide (0.11 g, 0.29 mmol), 25% aqueous ammonia (2 ml), tetrahydrofuran (2 ml) and methanol (10 ml) was added Raney-nickel (1 ml), and the mixture was stirred under a hydrogen (0.5 MPa) atmosphere at room temperature for 6 hrs. The reaction mixture was filtered, and the filtrate was partitioned between ethyl acetate (50 ml) and 10% aqueous potassium carbonate solution (25 ml). The organic layer was washed with saturated brine (10 ml) and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography to give a colorless oil. This was dissolved in ethyl acetate (2 ml) and 4N solution of hydrogen chloride in ethyl acetate (1 ml) was added. The reaction mixture was concentrated and the obtained crude crystals were recrystallized from diisopropyl ether-methanol to give the title compound (0.078 g, yield 59%) as pale-yellow crystals.

reactant | 2-{[3-cyano-4-(2-fluorophenyl)-2-isobutylquinolin-6-yl]oxy}acetamide | 0.29 mmol, 0.11 g | C(#N)C=1C(=NC2=CC=C(C=C2C1C1=C(C=CC=C1)F)OCC(=O)N)CC(C)C | C22H20FN3O2
reactant | ammonia | 2 ml | N | H3N
reactant | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
catalyst | Raney-nickel | 1 ml | [Ni] | Ni
solvent | methanol | 10 ml | CO | CH4O
product | 2-{[3-(aminomethyl)-4-(2-fluorophenyl)-2-isobutylquinolin-6-yl]oxy}acetamide Dihydrochloride | 0.078 g, yield 59% | Cl.Cl.NCC=1C(=NC2=CC=C(C=C2C1C1=C(C=CC=C1)F)OCC(=O)N)CC(C)C | InChI=1S/C22H24FN3O2.2ClH/c1-13(2)9-20-17(11-24)22(15-5-3-4-6-18(15)23)16-10-14(28-12-21(25)27)7-8-19(16)26-20;;/h3-8,10,13H,9,11-12,24H2,1-2H3,(H2,25,27);2*1H
